US09402832B2
A solution of N-(6-iodobenzo[d][1,3]dioxol-5-yl)acetamide (200 mg, 0.656 mmol) and NaOH (1.31 g, 32.8 mmol) in ethanol (26 mL) and water (6 mL) was heated to reflux with stirring for 4 h. The mixture was cooled and the solvent was removed under vacuum. The residue was partitioned between methylene chloride (100 mL) and water (100 mL). The organic layer was washed with water (2×100 mL), dried (MgSO4) and evaporated under vacuum to give 6-iodobenzo[d][1,3]dioxol-5-amine (170 mg, 98%) as orange solid. LCMS: 264 [M+1]+; 1H NMR (DMSO-d6) δ 4.88 (s, 2H), 5.87 (s, 2H), 6.47 (s, 1H), 7.07 (s, 1H).

reactant | N-(6-iodobenzo[d][1,3]dioxol-5-yl)acetamide | 0.656 mmol, 200 mg | IC=1C(=CC2=C(OCO2)C1)NC(C)=O | C9H8INO3
reactant | NaOH | 32.8 mmol, 1.31 g | [OH-].[Na+]
solvent | ethanol | 26 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | 6-iodobenzo[d][1,3]dioxol-5-amine | 170 mg, 98% | IC=1C(=CC2=C(OCO2)C1)N | C7H6INO2
